US06194425B1
N-(4-Phenylmethylamino[1,5]naphthyridin-3-yl)-ethoxyacetamide hydrochloride (5.8 g, 15.5 mmol) was combined with a 7% solution of ammonia in methanol (100 mL), placed in a sealed Parr vessel and then heated at 150° C. for 6 hours. The reaction mixture was concentrated under vacuum. The residue was partitioned between water and dichloromethane. The dichloromethane layer was separated, washed with water, dried over magnesium sulfate and then concentrated under vacuum. The residue was recrystallized from methyl acetate to provide 4.3 g of 2-ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c][1,5]naphthyridine, m.p. 118-119° C. Analysis: Calculated for C19H18N4O: % C, 71.68; % H, 5.70; % N, 17.60; Found: % C, 71.44; % H, 5.60; % N, 17.66.

reactant | N-(4-Phenylmethylamino[1,5]naphthyridin-3-yl)-ethoxyacetamide hydrochloride | 15.5 mmol, 5.8 g | Cl.C1(=CC=CC=C1)CNC1=C(C=NC2=CC=CN=C12)NC(COCC)=O
reactant | ammonia | N | H3N
solvent | methanol | 100 mL | CO | CH4O
product | 2-ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c][1,5]naphthyridine | 4.3 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CC1=CC=CC=C1 | C19H18N4O
